US06200991B1
2.36 g (12 mmol) of 1-phenyl-4,5,6,7-tetrahydro-1H-benzimidazole are placed in a 100-ml three-necked flask under nitrogen, 20 ml of tetrahydrofuran are added and then the mixture is cooled to −78° C. 9 ml (14.3 mmol) of a 1.6 N butyllithium solution in hexane are then slowly added. The mixture is stirred at −80° C. for 5 minutes and then the temperature is allowed to rise to −20° C. and the mixture is stirred for a further 45 minutes at this temperature. The reaction medium is then cooled to −80° C. and a solution of 2.24 g (24 mmol) of dimethyl disulphide diluted in 10 ml of tetrahydrofuran is introduced into it dropwise. When the addition is complete, the medium is allowed to return to room temperature. It is then cooled to 0° C. before gently introducing 15 ml of water and then 15 ml of ethyl acetate. The phases are separated and then the aqueous phase is extracted twice with 10 ml of ethyl acetate. The combined organic phases are washed twice with 10 ml of water, once with 5 ml of brine and then dried over MgSO4 and concentrated under vacuum. The crude reaction product is purified on a silica gel using, as eluting solution, a methanol gradient from 1 to 2% in dichloromethane. 2.17 g of 1-phenyl-2-methylthio-4,5,6,7-tetrahydrobenzimidazole are obtained. Yield=74% (m.p.=112° C.).

reactant | 1-phenyl-4,5,6,7-tetrahydro-1H-benzimidazole | 12 mmol, 2.36 g | C1(=CC=CC=C1)N1C=NC2=C1CCCC2 | C13H14N2
reactant | butyllithium | 1.6 N | C(CCC)[Li]
reactant | dimethyl disulphide | 24 mmol, 2.24 g | CSSC | C2H6S2
reactant | water | 15 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 1-phenyl-2-methylthio-4,5,6,7-tetrahydrobenzimidazole | 2.17 g, Yield=74% | C1(=CC=CC=C1)N1C(=NC2=C1CCCC2)SC | C14H16N2S
